US07678815B2
A solution of 2-tert-butoxycarbonylamino-5-methyl-thiophene-3-carboxylic acid (1.16 g, 4.49 mmol) in dimethylformamide (50.00 ml) was treated with 3-chloro aniline (0.86 g, 6.73 mmol), DIPEA (1.74 g, 13.47 mmol) and TBTU (2.16 g, 6.73 mmol) and stirred at room temperature for 48 h. The volatiles were evaporated and the residue purified by flash chromatography (heptane/ethyl acetate), to yield [3-(3-chloro-phenylcarbamoyl)-5-methyl-thiophen-2-yl]-carbamic acid tert-butyl ester (0.45 g, 27%) as a yellow solid, MS (ISP): m/e=368.6 (M+H+)

reactant | 2-tert-butoxycarbonylamino-5-methyl-thiophene-3-carboxylic acid | 4.49 mmol, 1.16 g | C(C)(C)(C)OC(=O)NC=1SC(=CC1C(=O)O)C | C11H15NO4S
reactant | 3-chloro aniline | 6.73 mmol, 0.86 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | DIPEA | 13.47 mmol, 1.74 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 6.73 mmol, 2.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | dimethylformamide | 50.00 ml | CN(C=O)C | C3H7NO
product | [3-(3-chloro-phenylcarbamoyl)-5-methyl-thiophen-2-yl]-carbamic acid tert-butyl ester | 0.45 g, 27% | C(C)(C)(C)OC(NC=1SC(=CC1C(NC1=CC(=CC=C1)Cl)=O)C)=O | C17H19ClN2O3S
